US09449732B2
4-(benzyloxy)benzoic acid (20.0 g, 87.6 mmol), 4-(hexyloxy)phenol (17.0 g, 87.6 mmol), N,N′-dicyclohexylcarbodiimide (21.7 g, 105 mmol) and 4-dimethylaminopyridine (535 mg, 4.38 mmol) were dissolved in 300 mL of methylene chloride. The resulting solution was stirred for 3 hours at room temperature. Then, 300 mL of pure water was added thereto, and then the resulting liquid was filtered to remove insoluble matters. Thereafter, the obtained solution was subjected to separation operation, and the resulting methylene chloride solution was washed with a saturated aqueous sodium chloride solution and dried over magnesium sulfate. After methylene chloride was distilled off, the resulting solid matter was washed with methanol. Thereby, a white solid compound, 4-(hexyloxy)phenyl 4-(benzyloxy)benzoate (24.9 g) was obtained.

reactant | 4-(benzyloxy)benzoic acid | 87.6 mmol, 20.0 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | 4-(hexyloxy)phenol | 87.6 mmol, 17.0 g | C(CCCCC)OC1=CC=C(C=C1)O | C12H18O2
reactant | N,N′-dicyclohexylcarbodiimide | 105 mmol, 21.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | water | 300 mL | O | H2O
catalyst | 4-dimethylaminopyridine | 4.38 mmol, 535 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 4-(hexyloxy)phenyl 4-(benzyloxy)benzoate | 24.9 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)OC2=CC=C(C=C2)OCCCCCC)C=C1 | C26H28O4
